US06936612B2
8-Cyclopentyl-6-methyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one (3.5 g, 12.7 mmol) and N-bromosuccinimide (2.6 g, 14.6 mmol) in carbon tetrachloride (100 ml) were irradiated with ultraviolet light allowing the temperature to reach 45° C. over 3 hours. The mixture was filtered, washed with dilute sodium sulfite solution, then brine, and dried over anhydrous magnesium sulfate. The crude product was chromatographed on silica gel eluting with 1:1 ethyl acetate:hexane to provide 6-bromomethyl-8-cyclopentyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one as a crystalline solid yielding (1.46 g, 32% yield), mp 103-105° C.

reactant | 8-Cyclopentyl-6-methyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one | 12.7 mmol, 3.5 g | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)SC)C)=O | C14H17N3OS
reactant | N-bromosuccinimide | 14.6 mmol, 2.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-bromomethyl-8-cyclopentyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one | 32% yield | BrCC1=CC2=C(N=C(N=C2)SC)N(C1=O)C1CCCC1 | C14H16BrN3OS
